US06339091B1
tert-butyl 3-{8-[(acetyloxy)methyl]-9-oxo-9,11-dihydroindolizino[1,2-b]quinolin-7-yl}-3-hydroxypentanoate
Acetic anhydride (70 μl, 0.7 mmol) is added dropwise to a solution of tert-butyl 3-hydroxy-3-[8-(hydroxymethyl)-9-oxo-9,11-dihydroindolizino[1,2-b]quinolin-7-yl]pentanoate (200 mg, 0.46 mmol) and triethylamine (140 μl, 1 mmol) in dichloromethane (5 ml) and the resultant mixture is agitated at ambient temperature for 21 hours. The volatile components are evaporated off and the residue is purified by chromatography on a silica gel column (1-2% MeOH/CH2Cl2), which produces 152 mg of sought compound in the form of a yellow solid, m.p. 195-196° C.

reactant | Acetic anhydride | 0.7 mmol, 70 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | tert-butyl 3-hydroxy-3-[8-(hydroxymethyl)-9-oxo-9,11-dihydroindolizino[1,2-b]quinolin-7-yl]pentanoate | 0.46 mmol, 200 mg | OC(CC(=O)OC(C)(C)C)(CC)C1=C(C(N2CC=3C(=NC4=CC=CC=C4C3)C2=C1)=O)CO | C25H28N2O5
reactant | triethylamine | 1 mmol, 140 μl | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | tert-butyl 3-{8-[(acetyloxy)methyl]-9-oxo-9,11-dihydroindolizino[1,2-b]quinolin-7-yl}-3-hydroxypentanoate | 152 mg | C(C)(=O)OCC=1C(N2CC=3C(=NC4=CC=CC=C4C3)C2=CC1C(CC(=O)OC(C)(C)C)(CC)O)=O | C27H30N2O6
